US07842713B2
Preparation of Intermediate 328d: Ethyl 7-Hydroxy-2-methyl-1-benzothiophene-5-carboxylate
Ethyl 7-(acetyloxy)-2-methyl-1-benzothiophene-5-carboxylate was dissolved in absolute ethanol (500 mL). Potassium carbonate (18 g, 0.13 mol) was added. The reaction mixture was stirred for 3 h at 60° C. and diluted with 200 mL of dichloromethane. The suspension was filtered. The precipitate was washed by 100 mL of dichloromethane. The combined solutions were washed by 200 mL of a 10% aqueous solution of citric acid and evaporated in vacuum to dryness. The residue was crystallized from ether/hexane mixture (1:5) to give the desired product 10 g (42 mmol, 84%) as a cream solid. 1H NMR (DMSO-d6): δ ppm 1.30 (t, 3H), 2.50 (s, 3H), 4.30 (qt, 2H), 7.20 (s, 1H), 7.95 (s, 1H), 7.85 (s, 1H); MS (APCI, pos): 237.1.

reactant | Ethyl 7-(acetyloxy)-2-methyl-1-benzothiophene-5-carboxylate | C(C)(=O)OC1=CC(=CC=2C=C(SC21)C)C(=O)OCC | C14H14O4S
reactant | Potassium carbonate | 0.13 mol, 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Ethyl 7-Hydroxy-2-methyl-1-benzothiophene-5-carboxylate | 42 mmol, 10 g, 84% | OC1=CC(=CC=2C=C(SC21)C)C(=O)OCC | C12H12O3S
